US08809331B2
To (5-methoxy-2-methyl-4-nitrophenyl)(morpholino)methanone (324 mg, 1.16 mmol) in ethanol (20 mL) and water (2 mL) was added SnCl2.2H2O (1.05 g, 4.64 mmol). The mixture was heated to 65° C. for 36 h and then 2 M aqueous sodium hydroxide solution (20 mL) and DCM (20 mL) were added. The organic phase was passed through a hydrophobic frit and the solvent was removed in vacuo to give (4-amino-5-methoxy-2-methylphenyl)(morpholino)methanone (268 mg, 92%) as an off-white solid. LCMS (10 cm_ESCI_Formic_MeCN): [M+H]+=251 at 2.14 min. 1H NMR (400 MHz, CDCl3): δ 6.60 (s, 1H), 6.52 (s, 1H), 3.87-3.52 (br m, 6H), 3.84 (br s, 2H), 3.82 (s, 3H), 3.36-3.23 (br m, 2H), 2.17 (s, 3H).

reactant | (5-methoxy-2-methyl-4-nitrophenyl)(morpholino)methanone | 1.16 mmol, 324 mg | COC=1C(=CC(=C(C1)C(=O)N1CCOCC1)C)[N+](=O)[O-] | C13H16N2O5
reactant | SnCl2.2H2O | 4.64 mmol, 1.05 g | O.O.Cl[Sn]Cl
reactant | sodium hydroxide | 2 M, 20 mL | [OH-].[Na+]
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
product | (4-amino-5-methoxy-2-methylphenyl)(morpholino)methanone | 268 mg, 92% | NC1=CC(=C(C=C1OC)C(=O)N1CCOCC1)C | C13H18N2O3
